US06982274B2
[5-(Dimethoxymethyl)-2-fluorophenyl](3-fluorophenyl)methanone
In a mixture of 80 ml of dichloromethane and 80 ml of dimethylsulfoxide were dissolved 24.3 g of [5-(dimethoxymethyl)-2-fluorophenyl](3-fluorophenyl)methanol and 27.6 ml of triethylamine, and a suspension of 26.3 g of sulfur trioxide-pyridine complex in 30 ml dimethyl sulfoxide was added, followed by stirring at room temperature for 1 hour. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate for two times. The organic layer was washed with water, dried over anhydrous magnesium sulfate and the solvent was evaporated. The residue was purified and separated by silica gel column chromatography (ethyl acetate:hexane=1:15), to give 18.7 g of the title compound as a colorless oil.

reactant | [5-(dimethoxymethyl)-2-fluorophenyl](3-fluorophenyl)methanol | 24.3 g | COC(C=1C=CC(=C(C1)C(O)C1=CC(=CC=C1)F)F)OC | C16H16F2O3
reactant | triethylamine | 27.6 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | dimethylsulfoxide | 80 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 30 ml | CS(=O)C | C2H6OS
product | [5-(Dimethoxymethyl)-2-fluorophenyl](3-fluorophenyl)methanone | 18.7 g | COC(C=1C=CC(=C(C1)C(=O)C1=CC(=CC=C1)F)F)OC | C16H14F2O3
